* source SOAL1
I_I1         N00291 0 DC 0Adc AC 0.003 49
R_R1         0 N00291  3k  
C_C1         0 N00291  33.33u  
C_C2         N00291 N00531  20u  
L_L1         N00291 N00531  800  
L_L2         0 N00531  200  
R_R3         0 N00531  3k  
I_I2         N00531 0 DC 0Adc AC 0.005 103
