* source SOAL3
R_R1         N00171 N00245  2  
R_R2         0 N00245  2  
C_C1         N00536 N00693  1  
I_I2         0 N00245 DC 3  
L_L1         N00536 N00693  0.25  
V_V2         N00171 0  
+SIN 0 2 0.318 0 0 90
R_R3         0 N00536  2  
I_I4         N00536 0 DC 0Adc AC 0Aac
+SIN 0 1 0.318 0 0 0
X_U3         N00245 N00693 Sw_tOpen PARAMS: tOpen=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
