* source 1-1
R_R7         N01786 N02011  1  
R_R5         N00703 N01786  0.05  
R_R2         N00703 N00897  1  
C_C2         N00897 N01103  1  
R_R6         N01786 N01601  0.125  
E_U2         N01103 0 VALUE {LIMIT(V(0,N00897)*1E6,-15V,+15V)}
R_R10         N02874 N01786  1  
R_R4         N01470 N01601  1  
V_V3         N02874 0  
+SIN 0 5 3.18 0 0 125
R_R8         N02011 N02252  3  
R_R9         N02252 N00433  1  
E_U4         N02011 0 VALUE {LIMIT(V(0,N01786)*1E6,-15V,+15V)}
E_U5         N00433 0 VALUE {LIMIT(V(0,N02252)*1E6,-15V,+15V)}
R_R3         N01103 N01470  1  
C_C1         N00558 N00703  1  
R_R1         N00433 N00558  1  
E_U3         N01601 0 VALUE {LIMIT(V(0,N01470)*1E6,-15V,+15V)}
E_U1         N00703 0 VALUE {LIMIT(V(0,N00558)*1E6,-15V,+15V)}
