* source 1-2
R_R7         N01801 N02011  1  
R_R5         N01516 N01801  0.2  
V_V4         0 N05627 12
R_R19         N08603 N08794  1  
R_R18         N00703 N08603  1  
R_R11         N05627 N01801  1  
E_U6         N08794 0 VALUE {LIMIT(V(0,N08603)*1E6,-15V,+15V)}
V_V7         N05724 0  
+EXP 0 1 0 1 1E-9 -1
R_R8         N02011 N02252  15  
R_R9         N02252 N00433  1  
E_U4         N02011 0 VALUE {LIMIT(V(0,N01801)*1E6,-15V,+15V)}
E_U5         N00433 0 VALUE {LIMIT(V(0,N02252)*1E6,-15V,+15V)}
R_R3         N00703 N01516  1  
C_C1         N00558 N00703  1  
R_R1         N00433 N00558  1  
R_R13         N05724 N01801  1  
E_U1         N00703 0 VALUE {LIMIT(V(0,N00558)*1E6,-15V,+15V)}
