* source P3
R_R1         N00608 N00033  1k  
R_R4         N00271 N00814  1k  
I_I1         0 N00608 DC 1  
R_R5         0 N00814  1k  
E_U2         N00033 0 VALUE {LIMIT(V(N00546,N00814)*1E6,-15V,+15V)}
E_U3         N00271 0 VALUE {LIMIT(V(N00546,N00608)*1E6,-15V,+15V)}
R_R2         N00033 N00546  1k  
R_R3         N00546 N00271  1k  
