* source P4
R_R1         0 N00029  6  
R_R6         N00918 N01011  10  
V_v1         N00051 0 1
R_R2         N00051 N00144  4  
R_R4         N00261 N00029  3  
E_U1         N00261 0 VALUE {LIMIT(V(0,N00144)*1E6,-15V,+15V)}
E_U2         N01011 0 VALUE {LIMIT(V(N00918,N00029)*1E6,-15V,+15V)}
R_R5         0 N00918  2  
R_R3         N00144 N00261  4  
