* source SOAL2
X_H1    N04590 0 N03512 0 SCHEMATIC1_H1 
V_V2         N00116 0 2.7
R_R1         N00161 N00116  1  
G_G1         N00116 N00161 N00161 N03512 0.5
R_R2         N00161 N04590  3  
R_R4         0 N00116  6m  
R_R3         N03512 N00161  6  

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
